US06372740B1
Preparation of 9-ethyl-7,9-dihydro-2-phenyl-8H-purin-8-one
A mixture of 4-ethylamino-5-nitro-2-phenylpyrimidine (2.7 g), palladium-carbon (0.3 g), and ethanol (50 ml) is stirred at room temperature under hydrogen atmosphere for five hours, and the reaction mixture is filtered. The filtrate is concentrated under reduced pressure, and to the resulting residue is added urea (1.4 g). The mixture is stirred at 200° C. for two hours. After cooling, water is added to the reaction mixture, and the precipitates are collected by filtration, washed with water, and washed with ethanol to give the desired compound (2.4 g).

reactant | 4-ethylamino-5-nitro-2-phenylpyrimidine | 2.7 g | C(C)NC1=NC(=NC=C1[N+](=O)[O-])C1=CC=CC=C1 | C12H12N4O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | 9-ethyl-7,9-dihydro-2-phenyl-8H-purin-8-one | 2.4 g | C(C)N1C2=NC(=NC=C2NC1=O)C1=CC=CC=C1 | C13H12N4O
